US05332726
BOC-L-leucine is converted to racemic BOC-(2-isobutyl)-allyl glycine benzyl ester using essentially the procedures of Example 20, Steps A and B, substituting allyl bromide in the alkylation step. The benzyl ester (2.07 g, 5.73 mmol) is dissolved in THF (40 ml), under nitrogen, 0.5M 9-borabicyclo[3.3.1]-nonane (9-BBN)in hexanes (46 ml, 23 mmol) is added and mixture stirred at room temperature for 16 hours. The reaction mixture is quenched with water (1 ml) and a mixture of 1N aqueous sodium hydroxide solution (51 ml) and 30% hydrogen peroxide solution (18 ml) is added dropwise. The mixture is stirred for 1 hour at room temperature, saturated with solid sodium chloride, then extracted with ether. The organic layer is washed with saturated sodium bicarbonate solution, brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude product is purified by flash chromatography, eluting with 20% ethyl acetate/hexanes to give BOC-(2-isobutyl)-3-hydroxypropyl glycine benzyl ester.

reactant | BOC-L-leucine | C(=O)(OC(C)(C)C)N[C@@H](CC(C)C)C(=O)O | C11H21NO4
reactant | racemic BOC-(2-isobutyl)-allyl glycine benzyl ester | C(C1=CC=CC=C1)OC(C(N(CC=C)C(C)(C)C)C(=O)OC(C)(C)C)=O | C21H31NO4
reactant | allyl bromide | C(C=C)Br | C3H5Br
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | BOC-(2-isobutyl)-3-hydroxypropyl glycine benzyl ester | C(C1=CC=CC=C1)OC(C(N(CCCO)C(C)(C)C)C(=O)OC(C)(C)C)=O | C21H33NO5
